US09340754B2
Preparation of 1-cyclohexyl-3-methyl-3-pentanol
A 300 ml autoclave was initially charged with 5.6 g of 3-methyl-1-phenyl-3-pentanol, dissolved in 94.4 g of tetrahydrofuran, and 1.6 g of a catalyst prepared according to Example 1 (0.35% ruthenium on silicon dioxide). The autoclave was flushed three times with nitrogen and then hydrogenated for 10 hours at 160° C. and a hydrogen pressure of 160 bar. The product was analyzed by gas chromatography (polydimethylsiloxane DB1, 30 m, internal diameter: 0.25 mm, film thickness: 0.25 μm, 50° C., 5 min isotherm, −6° C./min, 290° C., 219 min isotherm). The conversion was 99.9%, the selectivity 93%.

reactant | 3-methyl-1-phenyl-3-pentanol | 5.6 g | CC(CCC1=CC=CC=C1)(CC)O | C12H18O
solvent | tetrahydrofuran | 94.4 g | O1CCCC1 | C4H8O
catalyst | ruthenium | [Ru] | Ru
product | 1-cyclohexyl-3-methyl-3-pentanol | C1(CCCCC1)CCC(CC)(O)C | C12H24O
